US05412121
To a suspension of 113.4 g of sodium methylate in 750 g of methyl t-butyl ether was added at 5° C. in one hour 146 g of diethyl oxalate followed by a stirring period of one hour at 5° C. Then 204 g of diethyl 2-methyldiglycolate in two hours was added at 5° C. and the mixture was stirred for four hours at that temperature followed by a reflux period of three hours. The reaction mixture was added to 797 g of 8.9% hydrochloric acid solution at 20° C. and the pH of the resulting mixture was adjusted to 5 with 33% sodium hydroxide solution. To the separated upper layer was added with stirring 903 g of 17.8% sodium hydroxide solution at 20° C. The layers were allowed to settle and the separated lower layer was kept at 20° C. for 20 hours. Then, 200 g of water was added, 104 g of methyl bromide was introduced at 20° C. in one hour, and the mixture was stirred for another hour; and the pH of the solution was adjusted to 6.5 by the addition of concentrated hydrochloric acid solution. Extraction with methyl t-butyl ether yielded 95 g of 2,5-dimethyl-4-hydroxy-3[2H] furanone of 97.3% purity (molar overall yield 72.2%).

reactant | sodium methylate | 113.4 g | C[O-].[Na+]
reactant | diethyl oxalate | 146 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | 797 g | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 903 g | [OH-].[Na+]
reactant | methyl t-butyl ether | 750 g | C(C)(C)(C)OC | C5H12O
product | 2,5-dimethyl-4-hydroxy-3[2H] furanone | 95 g, yield 72.2% | CC1OC(=C(C1=O)O)C | C6H8O3
